US05840217
Synthesis of 2,2',4,4',7,7'-hexabiphenylyl -9,9'-spirobifluorene
In a 250 ml two-necked flask fitted with reflux condenser and precision glass stirrer, 1.6 g of hexabromospirobifluorene and 3 g of biphenylboronic acid are slurried in a mixture of 50 ml of toluene and 50 ml of 1M potassium carbonate solution. The mixture is refluxed under nitrogen and 115 mg of tetrakis(triphenylphosphine)palladium in 5 ml of toluene are added. The mixture is boiled under reflux for 7 hours while stirring. After the reaction is complete, the cooled solution is filtered and the filtrate is extracted twice by shaking with water (to improve the phase separation, chloroform is added). The organic phase is dried over sodium sulfate, filtered through a short column of silica gel and subsequently evaporated on a rotary evaporator. The product is further purified by recrystallization from dichloromethane/pentane. This gives 2 g (80%) of colorless crystals which fluoresce blue under UV illumination.

reactant | hexabromospirobifluorene | 1.6 g | BrC1=C(C(=C2C3=C(C(=C(C4(C3=CC2=C1)C=CC=C1C2=CC=CC=C2C=C14)Br)Br)Br)Br)Br | C25H10Br6
reactant | biphenylboronic acid | 3 g | B(C=1C=CC(=CC1)C=2C=CC=CC2)(O)O | C12H11BO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | potassium carbonate | 1M, 50 ml | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 115 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,2',4,4',7,7'-hexabiphenylyl -9,9'-spirobifluorene | C1(=C(C=CC=C1)C1=CC=2C3(C4=CC(=CC=C4C2C(=C1)C1=C(C=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1C=1C(=CC(=CC13)C1=C(C=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C97H64
